US05919780
(8-Chloro-5H-dibenzo[b,e][1,4]diazepin-11-yl)pyridin-3-ylmethyl-amine
A solution of 0.39 g (1.5 mmol) of 8-chloro-5,10-dihydro-dibenzo[b,e][1,4]diazepin-11-thione (Hunziker F., et al., Helv. Chim. Acta, 50:1588 (1967)) in 10 mL of 2-ethoxyethanol was treated with 0.3 mL (2.99 mmol) of 3-(aminomethyl)pyridine and heated at reflux for 30 hours. The solvent was removed under reduced pressure and the residue mixed with EtOAc and filtered to give 200 mg of the product. The filtrate was chromatographed on silica gel, eluting with EtOAc to give an additional 200 mg of product. Total yield 400 mg (80% yield) of the product as a yellow solid, mp 230-234° C. The structure was confirmed by NMR and mass spectroscopy. (m+H)+ =335.

reactant | 8-chloro-5,10-dihydro-dibenzo[b,e][1,4]diazepin-11-thione | 1.5 mmol, 0.39 g | ClC=1C=CC2=C(NC(C3=C(N2)C=CC=C3)=S)C1 | C13H9ClN2S
reactant | 3-(aminomethyl)pyridine | 2.99 mmol, 0.3 mL | NCC=1C=NC=CC1 | C6H8N2
solvent | 2-ethoxyethanol | 10 mL | C(C)OCCO | C4H10O2
product | (8-Chloro-5H-dibenzo[b,e][1,4]diazepin-11-yl)pyridin-3-ylmethyl-amine | 200 mg | ClC=1C=CC2=C(N=C(C3=C(N2)C=CC=C3)NCC=3C=NC=CC3)C1 | C19H15ClN4
